US05162316
7-Methylamino-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4.5-d]pyrimidine
7-Methylthio-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine (1.40 g) was treated with a solution of methylamine in industrial methylated spirit (33%; 30 ml) in a pressure vessel for 9 hours at 90° C. The reaction mixture was evaporated under reduced pressure to yield a cream solid which was dissolved in chloroform. The organic solution was washed with water, dried (magnesium sulphate) and evaporated under reduced pressure to yield a cream solid. Elution from silica with chloroform:methanol (25:1) yielded a crude product which was recrystallised twice from ethanol to yield the title compound, 0.31 g, m.p. 235°-236° C.

reactant | 7-Methylthio-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | 1.40 g | CSC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C16H16N4O2S
reactant | methylamine | CN | CH5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7-Methylamino-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4.5-d]pyrimidine | CNC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C16H17N5O2
